US09238644B2
(b) tert-Butyl 4-(4-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate (A77)
A mixture of tert-butyl 4-(4-((4-((2-(1-carbamoylcyclopropyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate A76 (0.405 g, 0.680 mmol) and 10% Pd/C (wetted with ca. 53% water, 0.200 g) in EtOAc (30 mL) and MeOH (15 mL) was stirred under an atmosphere of H2 at room temperature for 16 hours. The mixture was filtered through a plug of Celite and the filtrate was concentrated in vacuo. Purification by column chromatography (Biotage Isolera, 40 g SiO2 cartridge, 0-10% MeOH in DCM) gave a yellow oil which was further purified by column chromatography (Biotage Isolera, 40 g SiO2 cartridge, 10-90% EtOAc in petroleum benzine 40-60° C.) to give the title compound A77 as a yellow solid (0.213 g, 52%). LCMS-D: rt 3.62 min; m/z 600 [M+H]+.

reactant | tert-butyl 4-(4-((4-((2-(1-carbamoylcyclopropyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | C(N)(=O)C1(CC1)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C30H32F3N7O3
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 0.200 g | [Pd] | Pd
product | tert-Butyl 4-(4-((4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | C(N)(=O)C1(CC1)C1=C(CCC2=NC(=NC=C2C(F)(F)F)NC=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C30H36F3N7O3
